US07001900B2
N-Phenyl-bis(trifluoromethanesulfonimide) (1.3 g, 3.6 mmol) is added to a solution of 2-hydroxy-8-methoxy naphthalene (630 mg, 3.6 mmol) and TEA (504 μL, 3.6 mmol) in CH2Cl2 (8 mL). The reaction is allowed to stir for 18 hours then poured into water. The resulting solution is extracted three times with CH2Cl2. The combined organic extracts are dried (Na2SO4), filtered and concentrated. The resulting material is purified by column chromatography (5% CH2Cl2 in hexanes) to give 8-methoxy-2-naphthyl trifluoromethanesulfonate as a colorless oil (971 mg, 87%). HRMS (FAB) calculated for C12H9F3O4S+H+: 307.0252, found 307.0258.

reactant | N-Phenyl-bis(trifluoromethanesulfonimide) | 3.6 mmol, 1.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 2-hydroxy-8-methoxy naphthalene | 3.6 mmol, 630 mg | OC1=CC2=C(C=CC=C2C=C1)OC | C11H10O2
reactant | water | O | H2O
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 8-methoxy-2-naphthyl trifluoromethanesulfonate | 971 mg, 87% | FC(S(=O)(=O)OC1=CC2=C(C=CC=C2C=C1)OC)(F)F | C12H9F3O4S
